US07465795B2
4-amino-8-(5-azetidin-1-ylcarbonyl-3-pyridyl)-N-propyl-cinnoline-3-carboxamide
Using method D, 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.28 mmol) and 3-trimethylstannyl-5-(azetidin-1-ylcarbonyl)-pyridine (182 mg, of 80%, 0.45 mmol) were reacted to afford the title compound (48 mg, 44.0% yield) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 9.00 (s, 1H), 8.89 (s, 1H), 8.51 (br, 1H), 8.40 (s, 1H), 7.96 (d, J=7.0 Hz, 1H), 7.72-7.88 (m, 2H), 4.46 (br, 2H), 4.28 (br, 2H), 3.48 (q, J=6.7 Hz, 2H), 2.40 (m, J=7.8 Hz, 2H), 1.69 (m, J=7.3 Hz, 2H), 1.02 (t, J=7.4 Hz, 3H). MS APCI, m/z=391 (M+H). HPLC 1.74 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.28 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | 3-trimethylstannyl-5-(azetidin-1-ylcarbonyl)-pyridine | 0.45 mmol, 182 mg | C[Sn](C=1C=NC=C(C1)C(=O)N1CCC1)(C)C
product | 4-amino-8-(5-azetidin-1-ylcarbonyl-3-pyridyl)-N-propyl-cinnoline-3-carboxamide | 48 mg, 44.0% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=C(C1)C(=O)N1CCC1)C(=O)NCCC | C21H22N6O2
